US06703387B2
A mixture of 50 mg (0.164 mmol) of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine-1-acetic acid, 38 mg (0.199 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride, 27 mg (0.199 mmol) of 1-hydroxybenzotriazole hydrate and 0.021 ml (0.145 mmol) of 4-methoxybenzylamine was stirred in 5 ml of dichloromethane for 3 hours at room temperature and then left to stand at 4° C. for 54 hours. The solution was diluted with dichloromethane and then sequentially washed with citric acid, saturated sodium bicarbonate solution and brine, dried over magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed twice on silica gel using sequentially dichloromethane/methanol (98:2), dichloromethane/methanol (97:3) and dichloromethane/methanol (95:5) for the elutions. The product was dissolved in a solution of hydrogen chloride in ether and evaporated to dryness. There was obtained 9 mg of (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]-N-(4-methoxybenzyl)benzamide hydrochloride as a red oil MS: m/e 426.3 [M+H]+.

reactant | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-1,4-benzodiazepine-1-acetic acid | 0.164 mmol, 50 mg | ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=CC=C3)CC(=O)O)C=CC1Cl | C19H16Cl2N2O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.199 mmol, 38 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.199 mmol, 27 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methoxybenzylamine | 0.145 mmol, 0.021 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]-N-(4-methoxybenzyl)benzamide hydrochloride | 9 mg | Cl.CN1CCN=C(C2=C1C=CC=C2)/C=C/C2=CC=C(C(=O)NCC1=CC=C(C=C1)OC)C=C2 | InChI=1S/C27H27N3O2.ClH/c1-30-18-17-28-25(24-5-3-4-6-26(24)30)16-11-20-7-12-22(13-8-20)27(31)29-19-21-9-14-23(32-2)15-10-21;/h3-16H,17-19H2,1-2H3,(H,29,31);1H/b16-11+;
